US07446121B2
(Reference: Tetrahedron Asymmetry 1999, 4447-4454): To a solution of 4-fluoroaniline (10.0 g, 90.0 mmol; commercially available from Sigma Aldrich) in MeOH (80 mL) was added 6 N HCl (80 mL) and the solution was cooled to 0° C. NaNO2 (12.4 g, 180 mmol) was then slowly added as a solid. The reaction was stirred for 15 min at 0° C. after which time NaOAc was added as a solid to adjust the reaction to pH 5. Subsequently, a solution of methyl 2-chloroacetoacetate (10.96 mL, 90.0 mmol; commercially available from Sigma Aldrich) in MeOH (40 mL) was slowly added at 0° C. The reaction was then allowed to warm to 25° C. and stirred for 12 hr after which time the MeOH was removed under reduced pressure and ether (300 mL) was added. The organic layer was separated and washed with saturated NaHCO3 and water prior to drying over Na2SO4. The organic layer was concentrated to afford [(4-fluoro-phenyl)-hydrazono]-chloroacetic acid methyl ester (19.42 g, 94%) that was utilized without further purification: H-NMR (CDCl3) δ 8.37 (bs, 1 H), 7.22-7.12 (m, 2 H), 7.00-6.96 (m, 2 H), 3.87 (s, 3 H).

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | HCl | 6 N, 80 mL | Cl | ClH
reactant | NaNO2 | 180 mmol, 12.4 g | N(=O)[O-].[Na+]
reactant | NaOAc | CC(=O)[O-].[Na+]
reactant | methyl 2-chloroacetoacetate | ClC(C(=O)OC)C(=O)C | C5H7ClO3
solvent | MeOH | 80 mL | CO | CH4O
solvent | MeOH | 40 mL | CO | CH4O
product | [(4-fluoro-phenyl)-hydrazono]-chloroacetic acid methyl ester | 19.42 g, 94% | COC(C(Cl)=NNC1=CC=C(C=C1)F)=O | C9H8ClFN2O2
